US07553367B2
Brevibacterium flavum AJ 11275 (NRRL B-11474) was inoculated into a medium (pH 7.2) containing glucose 100 g/L, ammonium sulfate 8.0 g/L, Yeast Extract (Basco) 1.05 g/L, KH2PO4 1.0 g/L, MgSO4.7H2O 0.4 g/L, FeSO4.7H2O 10 mg/L, MnSO4.4H2O 10 mg/L, vitamin B, hydrochloride 0.2 mg/L, biotin 0.05 mg/L, and Surfactant GD-113 (Nippon Jushi) 0.05 mg/L, and culture with stirring at 31.5° C. for 70 hours to obtain L-lysine fermentation broth. The L-lysine content of the obtained broth was 3.46 wt %.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
product | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
